US07977371B2
2-Aminocarbonylamino-5-(3-chlorophenyl)-4-formylpyrrole-3-carboxamide (Compound No. 17-1)
1.0M Titanium tetrachloride in dichloromethane solution (2 mL, 2.0 mmol) was added to a suspension of 2-aminocarbonylamino-5-(3-chlorophenyl)pyrrole-3-carboxamide (Compound No. 1-25, 140 mg, 0.50 mmol) in dichloromethane (3 mL) at −30° C. and the mixture was stirred for 40 minutes. Moreover, dichloromethyl methyl ether (0.27 mL, 3.0 mmol) was added thereto and the whole was stirred overnight at 4° C. Under ice-cooling, 1N hydrochloric acid (4 mL) was added thereto and the mixture was stirred for 1 hour, and then water (10 mL) was add thereto. The precipitated solid was filtered off, washed with chloroform (10 mL) and water (10 mL), and dried under reduced pressure to give the target compound (120 mg) as a brown solid (Yield 77%).

reactant | 2-aminocarbonylamino-5-(3-chlorophenyl)pyrrole-3-carboxamide | NC(=O)NC=1NC(=CC1C(=O)N)C1=CC(=CC=C1)Cl | C12H11ClN4O2
reactant | dichloromethyl methyl ether | 3.0 mmol, 0.27 mL | COC(Cl)Cl | C2H4Cl2O
reactant | hydrochloric acid | 1N, 4 mL | Cl | ClH
reactant | water | 10 mL | O | H2O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
catalyst | Titanium tetrachloride | 1.0M | [Ti](Cl)(Cl)(Cl)Cl
solvent | dichloromethane | 2.0 mmol, 2 mL | ClCCl | CH2Cl2
product | 2-Aminocarbonylamino-5-(3-chlorophenyl)-4-formylpyrrole-3-carboxamide | 120 mg, Yield 77% | NC(=O)NC=1NC(=C(C1C(=O)N)C=O)C1=CC(=CC=C1)Cl | C13H11ClN4O3
